US07582769B2
1-(1,4-Dioxa-spiro[4.5]dec-8-yl)-1-(4-methyl-cyclohexyl)-3-(5-methyl-thiazol-2-yl)-urea was prepared in an similar manner to example 2 according to general procedures (A) and (B) using 1,4-dioxaspiro[4.5]decan-8-one, 4-methylcyclohexylamine and 2-amino-5-methylthiazole. The acetale was then hydrolysed in the following way:

reactant | 1,4-dioxaspiro[4.5]decan-8-one | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | 4-methylcyclohexylamine | CC1CCC(CC1)N | C7H15N
reactant | 2-amino-5-methylthiazole | NC=1SC(=CN1)C | C4H6N2S
reactant | acetale | CCOC(C)OCC | C6H14O2
product | 1-(1,4-Dioxa-spiro[4.5]dec-8-yl)-1-(4-methyl-cyclohexyl)-3-(5-methyl-thiazol-2-yl)-urea | O1CCOC12CCC(CC2)N(C(=O)NC=2SC(=CN2)C)C2CCC(CC2)C | C20H31N3O3S
